### PR TITLE
feat: hybrid RiscV plus LLVM dialect [1/3]

### PR DESCRIPTION
**Pull request by salinhkuhn**
This PR introduces the core definitions for the Hybrid Dialect, which merges functionality from both the RV64 and InstCombine dialects. It includes:
-Definitions of types and operands.
-Implementations of typeclass instances for the dialect.
-functions to assist with dialect parsing, specifically for simultaneously mapping values and types.
The full parsing infrastructure will be included in a follow-up PR.

### CODE REVIEW

File: SSA/Projects/LLVMAndRiscv.lean [hunk 1]
```diff
@@ -0,0 +1,164 @@
...
+    (as : HVector A l) : (HVector B (F <$> l)) :=
+  match l, as with
+  | [], .nil => .nil
+  | _t :: _ts, .cons a as => HVector.cons (f a) (HVector.ubermap F f as)
+
+/-!
+Simultaneous map on the type and value level of an HVector while
+performing monadic effects for value translation.-/
+@[simp_denote]
+def _root_.HVector.ubermapM [Monad m] {A : α → Type} {B : β → Type}
```
Comment (tobiasgrosser) [inline SSA/Projects/LLVMAndRiscv.lean]: Should this be in the HVector file?

File: SSA/Projects/LLVMAndRiscv.lean [hunk 2]
```diff
@@ -0,0 +1,164 @@
...
+  Signature.outTy (f <$> s) = f s.outTy := rfl
+
+def _root_.HVector.foldlM {B : Type*} [Monad m] (f : ∀ (a : α), B → A a → m B) :
+    ∀ {l : List α}, (init : B) → (as : HVector A l) → m B
+  | [],   b, .nil       => return b
+  | t::_, b, .cons a as => do foldlM f (← f t b a) as
+
+/-! Simultaneous map on the type and value level of an HVector. -/
+@[simp_denote]
+def _root_.HVector.ubermap {A : α → Type} {B : β → Type}
```
Comment (tobiasgrosser) [inline SSA/Projects/LLVMAndRiscv.lean]: Should this be in the HVector file?

File: SSA/Projects/LLVMAndRiscv.lean [hunk 3]
```diff
@@ -0,0 +1,164 @@
...
+    | .riscv someRiscVTy => someRiscVTy
+    | _  => .bv
+  ) Γ
+
+/-- Projection of `outTy` commutes with `Signature.map`. -/
+@[simp, simp_denote]
+theorem outTy_map_signature_eq {s : Signature α} {f : α → β} :
+  Signature.outTy (f <$> s) = f s.outTy := rfl
+
+def _root_.HVector.foldlM {B : Type*} [Monad m] (f : ∀ (a : α), B → A a → m B) :
```
Comment (tobiasgrosser) [inline SSA/Projects/LLVMAndRiscv.lean]: Should this be in the HVector file?

File: SSA/Projects/LLVMAndRiscv.lean (hunk 1 above)
Comment (salinhkuhn) [reply SSA/Projects/LLVMAndRiscv.lean]: That makes sense. Perhaps @alexkeizer can share his thoughts on whether he'd like to have this available outside of my project.

Comment (tobiasgrosser) [reply SSA/Projects/LLVMAndRiscv.lean]: He is likely to agree. Let's move this to not add latency.

Comment (salinhkuhn) [reply SSA/Projects/LLVMAndRiscv.lean]: I just tried moving it to the HVector file. However, since I tagged the lemma to be part of the simp_denote set so that simp_peephole can apply it, I’m not sure how to move it correctly. E.g moving it to HVector.lean  would require HVector to import, for example, SSA.Core.Tactic, which leads to cyclic imports. Since the simp_denote attribute is newer, @alexkeizer could you tell me how to relocate those maps correctly ?

Comment (tobiasgrosser) [reply SSA/Projects/LLVMAndRiscv.lean]: Use `attribute` as visible in https://github.com/opencompl/lean-mlir/blob/main/SSA/Projects/InstCombine/ForLean.lean#L385, to attach the attribute locally in your file.

Comment (salinhkuhn) [reply SSA/Projects/LLVMAndRiscv.lean]: thank you. Done.

File: SSA/Core/HVector.lean [hunk 4]
```diff
@@ -222,5 +222,38 @@ instance [Lean.ToExpr α] [∀ a, Lean.ToExpr (A a)] [HVector.ToExprPi A]
 
 end ToExprPi
 
+/-!
+  ## Folding and mapping over HVectors, monadic and non-monadic.
+-/
+section mapHVec
+def _root_.HVector.foldlM {B : Type*} [Monad m] (f : ∀ (a : α), B → A a → m B) :
```
Comment (tobiasgrosser) [inline SSA/Core/HVector.lean]: Do we need the `_root_.HVector` prefix.

Comment (salinhkuhn) [reply SSA/Core/HVector.lean]: no, not needed

File: SSA/Projects/LLVMAndRiscv.lean [hunk 5]
```diff
@@ -0,0 +1,144 @@
...
+import SSA.Projects.RISCV64.Semantics
+import SSA.Projects.RISCV64.PrettyEDSL
+import SSA.Core.HVector
+
+open InstCombine(LLVM)
+namespace LLVMRiscV
+
+
+/-! # Hybrid dialect -/
+/-
```
Comment (alexkeizer) [inline SSA/Projects/LLVMAndRiscv.lean]:
```suggestion
/-! 
# Hybrid dialect 

```

File: SSA/Projects/LLVMAndRiscv.lean [hunk 6]
```diff
@@ -0,0 +1,144 @@
...
+we insert unrealized_conversion_cast like MLIR does during lowering.
+see: section (UnrealizedConversionCastOp)
+https://mlir.llvm.org/docs/Dialects/Builtin/#builtinunrealized_conversion_cast-unrealizedconversioncastop
+ -/
+
+/-- Defining an instance for LLVM.Ty from InstCombine.Ty instance.-/
+instance : DecidableEq LLVM.Ty :=
+  fun a b => by
+    simp only [LLVM] at a b
+    exact (inferInstanceAs (DecidableEq (InstCombine.MTy 0)) a b)
```
Comment (alexkeizer) [inline SSA/Projects/LLVMAndRiscv.lean]:
```suggestion
instance : DecidableEq LLVM.Ty :=
  inferInstanceAs <| DecidableEq (InstCombine.MTy _)
```

This ought to work as well, same for the other instances that just wrap the InstCombine.M{Op,Ty} instance.

That said, it's nice to define an instance close to the type it applies to, so could you move all instance for `LLVM.Ty` and `LLVM.Op` to the InstCombine/Base file?

File: SSA/Projects/LLVMAndRiscv.lean [hunk 7]
```diff
@@ -0,0 +1,144 @@
...
+
+/-- Defining an instance for LLVM.Op from InstCombine.Op instance. -/
+instance : DecidableEq LLVM.Op :=
+  fun a b => by
+    simp only [LLVM] at a b
+    exact (inferInstanceAs (DecidableEq (InstCombine.MOp 0)) a b)
+
+inductive Ty where
+  | llvm : (LLVM.Ty) -> Ty
+  | riscv : (Dialect.Ty RISCV64.RV64) -> Ty
```
Comment (alexkeizer) [inline SSA/Projects/LLVMAndRiscv.lean]:
```suggestion
  | riscv : RISCV64.RV64.Ty -> Ty
```

Even though the dot notation is maybe slightly mis-leading, it does look nicer and we do use it in other files, so it's best to be consistent.

File: SSA/Projects/LLVMAndRiscv.lean [hunk 8]
```diff
@@ -0,0 +1,144 @@
...
+  deriving DecidableEq, Repr
+
+inductive Op where
+  | llvm : (Dialect.Op LLVM) -> Op
+  | riscv : (Dialect.Op RISCV64.RV64) -> Op
```
Comment (alexkeizer) [inline SSA/Projects/LLVMAndRiscv.lean]:
```suggestion
  | llvm : LLVM.Op -> Op
  | riscv : RISCV64.RV64.Op -> Op
```

Could you check this everywhere?

File: SSA/Projects/LLVMAndRiscv.lean [hunk 9]
```diff
@@ -0,0 +1,144 @@
...
+    exact (inferInstanceAs (DecidableEq (InstCombine.MTy 0)) a b)
+
+/-- Defining an instance for LLVM.Op from InstCombine.Op instance. -/
+instance : DecidableEq LLVM.Op :=
+  fun a b => by
+    simp only [LLVM] at a b
+    exact (inferInstanceAs (DecidableEq (InstCombine.MOp 0)) a b)
+
+inductive Ty where
+  | llvm : (LLVM.Ty) -> Ty
```
Comment (alexkeizer) [inline SSA/Projects/LLVMAndRiscv.lean]:
```suggestion
  | llvm : LLVM.Ty -> Ty
```
no need for these parentheses

File: SSA/Projects/LLVMAndRiscv.lean [hunk 10]
```diff
@@ -0,0 +1,144 @@
...
+  | riscv : (Dialect.Ty RISCV64.RV64) -> Ty
+  deriving DecidableEq, Repr
+
+inductive Op where
+  | llvm : (Dialect.Op LLVM) -> Op
+  | riscv : (Dialect.Op RISCV64.RV64) -> Op
+  | builtin.unrealized_conversion_cast.riscvToLLVM : Op
+  | builtin.unrealized_conversion_cast.LLVMToriscv : Op
```
Comment (alexkeizer) [inline SSA/Projects/LLVMAndRiscv.lean]:
```suggestion
  /-- Cast a RiscV value to an LLVM value -/
  | castRiscv : Op
  /-- Cast an LLVM value to a RiscV value -/
  | castLLVM : Op
```

Let's try to keep the operation names a bit short. Note that the way we need constructors of this inductive type is not strictly related to the way MLIR names those operations, so we don't have to repeat the whole `builtin.unrealized_conversion_cast` namespace.

File: SSA/Projects/LLVMAndRiscv.lean [hunk 11]
```diff
@@ -0,0 +1,144 @@
...
+We wrap `BitVec 64`in `Option (BitVec 64)` -/
+def builtin.unrealized_conversion_cast.riscvToLLVM (toCast : BitVec 64 ) : Option (BitVec 64 ) := some toCast
+
+/--
+Semantics of an unrealized conversion cast from LLVM to RISC-V.
+This cast attempts to lower an `(Option (BitVec 64))` to a concrete `(BitVec 64)`.
+If the value is `some`, we extract the underlying `BitVec`.
+If it is `none` (e.g., an LLVM poison value), we default to the zero `BitVec`.
+-/
+def builtin.unrealized_conversion_cast.LLVMToriscv (toCast : Option (BitVec 64)) : BitVec 64 := toCast.getD 0#64
```
Comment (alexkeizer) [inline SSA/Projects/LLVMAndRiscv.lean]: Same here, the dots here add a bunch of namespaces on the Lean side we don't really need, could you rename it into something a bit shorter without dots?

File: SSA/Projects/LLVMAndRiscv.lean [hunk 12]
```diff
@@ -0,0 +1,144 @@
...
+  | .builtin.unrealized_conversion_cast.riscvToLLVM =>
+      {sig := [Ty.riscv .bv], outTy := Ty.llvm (.bitvec 64), regSig := []}
+  | .builtin.unrealized_conversion_cast.LLVMToriscv =>
+      {sig := [Ty.llvm (.bitvec 64)], outTy := (Ty.riscv .bv), regSig := []}
+
+instance : ToString (Dialect.Ty LLVMPlusRiscV)  where
+  toString t := repr t |>.pretty
+
+@[simp_denote]
+def llvmArgsFromHybrid : {tys : List LLVM.Ty} → HVector TyDenote.toType (tys.map LLVMRiscV.Ty.llvm) → HVector TyDenote.toType tys
```
Comment (alexkeizer) [inline SSA/Projects/LLVMAndRiscv.lean]: This line is too long!

We generally don't want lines that are more than 100 characters wide, so if a line is longer than that please insert newlines. Note that you can configure vscode to show you a light grey line at 100 characters as a guideline!

I believe you might have some more too-long lines throughout the file, please check this.

File: SSA/Projects/LLVMAndRiscv.lean [hunk 13]
```diff
@@ -0,0 +1,144 @@
...
+  | [], .nil => .nil
+  | _ :: _, .cons x xs => .cons x (llvmArgsFromHybrid xs)
+
+@[simp_denote]
+def riscvArgsFromHybrid : {tys : List RISCV64.RV64.Ty} → HVector TyDenote.toType (tys.map LLVMRiscV.Ty.riscv) → HVector TyDenote.toType tys
```
Comment (alexkeizer) [inline SSA/Projects/LLVMAndRiscv.lean]: this line is also too long, for example

File: SSA/Projects/LLVMAndRiscv.lean [hunk 14]
```diff
@@ -0,0 +1,144 @@
...
+
+@[simp, reducible]
+instance : DialectDenote (LLVMPlusRiscV) where
+  denote
+  | .llvm (llvmOp), args , .nil => DialectDenote.denote llvmOp (llvmArgsFromHybrid args) .nil
+  | .riscv (riscvOp), args , .nil => DialectDenote.denote riscvOp (riscvArgsFromHybrid args) .nil
+  | .builtin.unrealized_conversion_cast.riscvToLLVM, elemToCast, _ =>
+    let toCast : (BitVec 64) := (elemToCast.getN 0 (by simp [DialectSignature.sig, signature])) -- adapting to the newly introduced PoisonOr wrapper.
+    let casted : Option (BitVec 64) := builtin.unrealized_conversion_cast.riscvToLLVM toCast
+    PoisonOr.ofOption casted
```
Comment (alexkeizer) [inline SSA/Projects/LLVMAndRiscv.lean]: Please have the cast semantics function return a `PoisonOr`, then you don't have to use `ofOption` here

File: SSA/Projects/LLVMAndRiscv.lean [hunk 15]
```diff
@@ -0,0 +1,144 @@
...
+inductive Op where
+  | llvm : (Dialect.Op LLVM) -> Op
+  | riscv : (Dialect.Op RISCV64.RV64) -> Op
+  | builtin.unrealized_conversion_cast.riscvToLLVM : Op
+  | builtin.unrealized_conversion_cast.LLVMToriscv : Op
+  deriving DecidableEq, Repr
+
+/-- Semantics of an unrealized conversion cast from RISC-V 64 to LLVM.
+We wrap `BitVec 64`in `Option (BitVec 64)` -/
+def builtin.unrealized_conversion_cast.riscvToLLVM (toCast : BitVec 64 ) : Option (BitVec 64 ) := some toCast
```
Comment (alexkeizer) [inline SSA/Projects/LLVMAndRiscv.lean]:
```suggestion
def builtin.unrealized_conversion_cast.riscvToLLVM (toCast : BitVec 64) : PoisonOr (BitVec 64) := .value toCast
```

Please check your whitespace throughout the file!

File: SSA/Projects/LLVMAndRiscv.lean (hunk 11 above)
Comment (alexkeizer) [inline SSA/Projects/LLVMAndRiscv.lean]:
```suggestion
def builtin.unrealized_conversion_cast.LLVMToriscv (toCast : PoisonOr (BitVec 64)) : BitVec 64 := 
  toCast.toOption.getD 0#64
```

File: SSA/Core/HVector.lean [hunk 16]
```diff
@@ -222,5 +222,39 @@ instance [Lean.ToExpr α] [∀ a, Lean.ToExpr (A a)] [HVector.ToExprPi A]
...
+def foldlM {B : Type*} [Monad m] (f : ∀ (a : α), B → A a → m B) :
+    ∀ {l : List α}, (init : B) → (as : HVector A l) → m B
+  | [],   b, .nil       => return b
+  | t::_, b, .cons a as => do foldlM f (← f t b a) as
+
+/-! Simultaneous map on the type and value level of an HVector. -/
+def ubermap {A : α → Type} {B : β → Type}
+    {l : List α}
+    (F : α → β)
+    (f : {a : α} → (v : A a) → B (F a) )
```
Comment (alexkeizer) [inline SSA/Core/HVector.lean:239]:
```suggestion
    (f : {a : α} → (v : A a) → B (F a))
```

File: SSA/Core/HVector.lean [hunk 17]
```diff
@@ -222,5 +222,39 @@ instance [Lean.ToExpr α] [∀ a, Lean.ToExpr (A a)] [HVector.ToExprPi A]
...
+    (as : HVector A l) : (HVector B (F <$> l)) :=
+  match l, as with
+  | [], .nil => .nil
+  | _t :: _ts, .cons a as => HVector.cons (f a) (HVector.ubermap F f as)
```
Comment (alexkeizer) [inline SSA/Core/HVector.lean]: This seems to be the same as the existing `HVector.map'`, is it?

If it is, please use that one, if it isn't add an explanation to the docstring why `ubermap` is different from `map'`

File: SSA/Core/HVector.lean [hunk 18]
```diff
@@ -222,5 +222,39 @@ instance [Lean.ToExpr α] [∀ a, Lean.ToExpr (A a)] [HVector.ToExprPi A]
...
+
+/-!
+Simultaneous map on the type and value level of an HVector while
+performing monadic effects for value translation.-/
+def ubermapM [Monad m] {α : Type 0} {A : α → Type} {B : β → Type}
```
Comment (alexkeizer) [inline SSA/Core/HVector.lean]: I don't think we have a `mapM'`, but if `ubermap` is indeed the same as `map'`, then we should name this `mapM'` to match.

File: SSA/Projects/LLVMAndRiscv.lean (hunk 12 above)
Comment (alexkeizer) [reply SSA/Projects/LLVMAndRiscv.lean]: (By the way, for this kind of comment, where I ask you to check the whole file, it's nice to add a comment saying you indeed checked the whole thing before hitting resolve. That way I can see you noticed that comment also and didn't just mistakenly only fix this one occurence)

**Comment by alexkeizer** [comment]
@salinhkuhn thanks for polishing and submitting the PR! I left some comments, please have a look at them and let me know when you've addressed everything and the PR is ready for a second round of review

File: SSA/Projects/LLVMAndRiscv.lean (hunk 1 above)
Comment (tobiasgrosser) [reply SSA/Projects/LLVMAndRiscv.lean]: Perfect. I f you addressed a comment, feel invited to click 'resolve conversation'. (I do this now for the ones that are addressed already).

**Comment by tobiasgrosser** [comment]
@salinhkuhn, it seems that on this PR @alexkeizer comments still need to be addressed, meaning the ball is in your court.  Please address those and when done, pass the ball back to us. 🎾

File: SSA/Projects/LLVMAndRiscv.lean (hunk 6 above)
Comment (salinhkuhn) [reply SSA/Projects/LLVMAndRiscv.lean]: Done. Let me know if the new location works for you.

File: SSA/Projects/LLVMAndRiscv.lean (hunk 8 above)
Comment (salinhkuhn) [reply SSA/Projects/LLVMAndRiscv.lean]: done

File: SSA/Projects/LLVMAndRiscv.lean (hunk 12 above)
Comment (salinhkuhn) [reply SSA/Projects/LLVMAndRiscv.lean]: Should be fix throughout the file now.

File: SSA/Core/HVector.lean (hunk 17 above)
Comment (salinhkuhn) [reply SSA/Core/HVector.lean]: it is the same. I changed it now.

File: SSA/Projects/LLVMAndRiscv.lean (hunk 14 above)
Comment (salinhkuhn) [reply SSA/Projects/LLVMAndRiscv.lean]: done

**Comment by salinhkuhn** [comment]
@alexkeizer @tobiasgrosser Thx, I adressed your comments. Review round 2 can start.

File: SSA/Core/HVector.lean [hunk 19]
```diff
@@ -222,5 +222,29 @@ instance [Lean.ToExpr α] [∀ a, Lean.ToExpr (A a)] [HVector.ToExprPi A]
...
+
+def foldlM {B : Type*} [Monad m] (f : ∀ (a : α), B → A a → m B) :
+    ∀ {l : List α}, (init : B) → (as : HVector A l) → m B
+  | [],   b, .nil       => return b
+  | t::_, b, .cons a as => do foldlM f (← f t b a) as
+
+/-!
+Simultaneous map on the type and value level of an HVector while
+performing monadic effects for value translation.-/
+def mapM' [Monad m] {α : Type 0} {A : α → Type} {B : β → Type}
```
Comment (alexkeizer) [inline SSA/Core/HVector.lean]:
```suggestion
/--
Simultaneous map on the type and value level of an HVector while
performing monadic effects for value translation.
-/
def mapM' [Monad m] {α : Type 0} {A : α → Type} {B : β → Type}
```
Remember: `/-- ... -/` is for definitions (so-called docstrings)!

File: SSA/Projects/LLVMAndRiscv.lean (hunk 10 above)
Comment (alexkeizer) [reply SSA/Projects/LLVMAndRiscv.lean]: @salinhkuhn it seems you didn't respond to this yet. If you don't want to adopt my suggestion, do leave a response here to explain why

**Review by alexkeizer — APPROVED** [review]
Thanks, it looks almost perfect. There seems to be one comment still open from the previous review that you haven't responded to, can you have a look at that.

The place you put the HVector lemmas is OK, but even better would be to define the monadic foldlM & mapM' close to their non-monadic versions, for example by putting them right after `foldld` on line 72. That way, all maps/folds are defined in one section of the file, making it easier to find them.

Could you fix these two things, and then we can merge?

File: SSA/Projects/LLVMAndRiscv.lean (hunk 10 above)
Comment (salinhkuhn) [reply SSA/Projects/LLVMAndRiscv.lean]: adapted the change

File: SSA/Projects/LLVMAndRiscv.lean (hunk 11 above)
Comment (salinhkuhn) [reply SSA/Projects/LLVMAndRiscv.lean]: done

**Comment by salinhkuhn** [comment]
> Thanks, it looks almost perfect. There seems to be one comment still open from the previous review that you haven't responded to, can you have a look at that.
> 
> The place you put the HVector lemmas is OK, but even better would be to define the monadic foldlM & mapM' close to their non-monadic versions, for example by putting them right after `foldld` on line 72. That way, all maps/folds are defined in one section of the file, making it easier to find them.
> 
> Could you fix these two things, and then we can merge?

fixed it, thank you for the review Alex.
I moved the foldM and mapM' and shortened the name of the casts and casts semantics. @alexkeizer I will merge as soon as you give me the OK.

File: SSA/Projects/LLVMAndRiscv.lean [hunk 20]
```diff
@@ -0,0 +1,139 @@
...
+import SSA.Core.Util
+import SSA.Core.Util.ConcreteOrMVar
+import SSA.Projects.InstCombine.ForStd
+import SSA.Projects.InstCombine.LLVM.Semantics
+import SSA.Projects.InstCombine.Tactic
+import SSA.Projects.RISCV64.Syntax
+import SSA.Projects.RISCV64.Base
+import SSA.Projects.RISCV64.Semantics
+import SSA.Projects.RISCV64.PrettyEDSL
+import SSA.Core.HVector
```
Comment (tobiasgrosser) [inline SSA/Projects/LLVMAndRiscv.lean]: @salinhkuhn, can you double-check that this list of imports is minimal. Given that the file is relatively short and this list is long, I suspect not all may be needed.

Comment (salinhkuhn) [reply SSA/Projects/LLVMAndRiscv.lean]: Done. It's true they're not needed for this part of the file yet. They'll be added in the next PRs as soon as necessary.

File: SSA/Projects/LLVMAndRiscv.lean [hunk 21]
```diff
@@ -0,0 +1,129 @@
+import SSA.Projects.InstCombine.Base
+import SSA.Projects.RISCV64.Base
+import SSA.Core.HVector
```
Comment (tobiasgrosser) [inline SSA/Projects/LLVMAndRiscv.lean]:
```suggestion
import SSA.Projects.InstCombine.Base
import SSA.Projects.RISCV64.Base
```

Comment (tobiasgrosser) [reply SSA/Projects/LLVMAndRiscv.lean]: It seems you missed one.

**Review by tobiasgrosser — APPROVED** [review]
Assuming my last comment is merged, this is good to go. Let's see if @alexkeizer aproves as well.

File: SSA/Core/HVector.lean [hunk 22]
```diff
@@ -70,6 +70,24 @@ def foldld {β : Type*} (B : β → Type*) (fType : β → α → β)
   | [], .nil, _, init         => init
   | _::_, .cons a as, _, init => foldld B fType fElem as (fElem init a)
 
+
```
Comment (alexkeizer) [inline SSA/Core/HVector.lean]:
```suggestion
```

File: SSA/Projects/InstCombine/Base.lean [hunk 23]
```diff
@@ -126,6 +126,15 @@ def LLVM : Dialect where
...
 
+/-- Defining an instance for LLVM.Ty from InstCombine.Ty instance.-/
+instance : DecidableEq LLVM.Ty :=
+  inferInstanceAs <| DecidableEq (InstCombine.MTy _)
+
+/-- Defining an instance for LLVM.Op from InstCombine.Op instance. -/
+instance : DecidableEq LLVM.Op :=
+    inferInstanceAs <| DecidableEq (InstCombine.MOp 0)
+
+
```
Comment (alexkeizer) [inline SSA/Projects/InstCombine/Base.lean]:
```suggestion
```

**Review by alexkeizer — APPROVED** [review]
LGTM! (Stands for Looks Good To Me, i.e., feel free to merge!)
